US06096921
Preparation of Benzyl 4-(4-nitro-3-hydroxy-2,5,6-trifluorophenoxy)benzoate
42.6 g of pentafluoronitrobenzene (0.2 mol) are dissolved in 300 ml of N-methylpyrrolidone. After 30 g of potassium carbonate (0.22 mol) have been added, the mixture is cooled to -5° C., and a solution of 45.6 g of benzyl 4-hydroxybenzoate (0.2 mol) in 300 ml of N-methylpyrrolidone is then added drop wise over the course of 30 minutes with stirring. After 1 hour, the reaction temperature is raised to 23° C. for 24 hours, and 800 ml of water and 300 ml of ethyl acetate are then added. The organic phase is separated, washed three times with water and dried over sodium sulphate. The solution is then concentrated in a rotary evaporator until yellow crystals precipitate. The reaction product is washed with petroleum ether (boiling range 60-80° C.) collected on a Buchner funnel and dried in a vacuum dryer under nitrogen at 40° C./10 mbar (Yield 89%).

reactant | pentafluoronitrobenzene | 0.2 mol, 42.6 g | FC1=C(C(=C(C(=C1[N+](=O)[O-])F)F)F)F | C6F5NO2
reactant | potassium carbonate | 0.22 mol, 30 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl 4-hydroxybenzoate | 0.2 mol, 45.6 g | OC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C14H12O3
reactant | water | 800 ml | O | H2O
solvent | N-methylpyrrolidone | 300 ml | CN1C(CCC1)=O | C5H9NO
solvent | N-methylpyrrolidone | 300 ml | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | Benzyl 4-(4-nitro-3-hydroxy-2,5,6-trifluorophenoxy)benzoate | Yield 89% | [N+](=O)([O-])C1=C(C(=C(OC2=CC=C(C(=O)OCC3=CC=CC=C3)C=C2)C(=C1F)F)F)O | C20H12F3NO6
